US04261993
Sodium cyanoborohydride (63 g) is added in portions to a stirred solution of 2-(2-hydroxyethyl)indole (43 g) in acetic acid (750 cc), whilst cooling the reaction mixture with a bath of cold water so as not to exceed 20° C. The mixture is stirred for 24 hours at this temperature. It is then concentrated to about 100 cc at 50° C. under reduced pressure (20 mm Hg). The residue is taken up in a mixture of water and ice (500 cc), the resulting mixture is rendered alkaline to pH 10 with an aqueous solution of sodium hydroxide and extraction is carried out with diethyl ether (3×300 cc). The organic extracts are combined, washed with water (50 cc), dried over magnesium sulphate and filtered and the filtrate is evaporated to dryness at 40° C. under reduced pressure (20 mm Hg). 2-(2-Hydroxyethyl)indoline (43 g) is obtained in the form of a yellow oil (mass spectrum m/e=163).

reactant | Sodium cyanoborohydride | 63 g | C(#N)[BH3-].[Na+]
reactant | 2-(2-hydroxyethyl)indole | 43 g | OCCC=1NC2=CC=CC=C2C1 | C10H11NO
reactant | water | O | H2O
solvent | acetic acid | 750 cc | C(C)(=O)O | C2H4O2
product | 2-(2-Hydroxyethyl)indoline | 43 g | OCCC1NC2=CC=CC=C2C1 | C10H13NO
